US05602075
15. Preparation of 2-Benzylthio-5-bromo-8-chloro[1,2,4]-triazolo[1,5-a]pyrazine
A suspension of 1.04 g (3.08 mmol) of crude 2 -benzylthio-5-bromo-8 -hydroxy[1,2,4]triazolo[1,5 -a]pyrazine in 40 mL of dry acetonitrile was prepared in a flask equipped with a condenser and a drying tube and to this was added with stirring 4.0mL (43mmol) of phosphorus oxychloride. The mixture was heated at reflux for 3 hours and the solvent was then removed by evaporation under reduced pressure. The dark residue was dissolved in dichloromethane and the resulting solution was washed with water and dried over sodium sulfate. The residue obtained after removal of the solvent by evaporation under reduced pressure was purified by flash column chromatography on silica gel using dichloromethane as the eluent to obtain 0.26 g (24 percent of theory) of the title compound as an off-white solid melting at 109°-110° C.

reactant | 2 -benzylthio-5-bromo-8 -hydroxy[1,2,4]triazolo[1,5 -a]pyrazine | 3.08 mmol, 1.04 g | C(C1=CC=CC=C1)SC1=NN2C(C(=NC=C2Br)O)=N1 | C12H9BrN4OS
reactant | phosphorus oxychloride | 43mmol, 4.0mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 2-Benzylthio-5-bromo-8-chloro[1,2,4]-triazolo[1,5-a]pyrazine | C(C1=CC=CC=C1)SC1=NN2C(C(=NC=C2Br)Cl)=N1 | C12H8BrClN4S
